US07842696B2
LiOH (4.81 g, 114.63 mmol) was added to a stirred solution of (4-phenoxy-benzylamino)-acetic acid ethyl ester (5.72 g, 19.12 mmol) in THF:MeOH:H2O (3:1:1, 75 mL), and the resulting mixture was stirred at room temperature for 5 hrs. The MeOH and THF were evaporated, and the residue was acidified with cold 20% aqueous HCl. The resulting precipitate was filtered, washed with water and dried to afford 4.74 g (91.41% yield) of (4-phenoxy-benzoylamino)-acetic acid. 1H NMR (DMSO): δ 7.8 (d, 2H,), 7.75 (t, 1H), 7.4 (t, 2H), 7.15 (t, 1H), 7.05 (d, 2H), 7.0 (d, 2H).

reactant | LiOH | 114.63 mmol, 4.81 g | [Li+].[OH-]
reactant | (4-phenoxy-benzylamino)-acetic acid ethyl ester | 19.12 mmol, 5.72 g | C(C)OC(CNCC1=CC=C(C=C1)OC1=CC=CC=C1)=O | C17H19NO3
solvent | THF MeOH H2O | 75 mL | C1CCOC1.CO.O
product | (4-phenoxy-benzoylamino)-acetic acid | 4.74 g, 91.41% yield | O(C1=CC=CC=C1)C1=CC=C(C(=O)NCC(=O)O)C=C1 | C15H13NO4
